US05100891
3-(N-Cyclopropyl)amino-4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol7-ol (2.2 g) was dissolved in CH2Cl2 (200 ml) with 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU; 0.21 g) and the solution was cooled to 0° C. A solution of methyl isocyanate (0.52 g in 30 ml CH2Cl2) was added slowly to the cooled solution and the reaction was monitored by thin layer chromatography (silica gel, 1:1 hexane/ethyl acetate). After warming to room temperature, the mixture was washed successively with water (2+100 ml), brine (1×100 ml) and again with water (1×100 ml). The organic layer was dried over Na2SO4 and the solvent removed in vacuo. The crude material was recrystallized from acetonitrile. 3-(N-Cyclopropyl)amino-4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol7-yl methylcarbamate was isolated as light yellow/white plates (1.0 g).

reactant | 3-(N-Cyclopropyl)amino-4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol7-ol | 2.2 g | C1(CC1)NC1CCC2=C1N(C=1C=CC(=CC21)O)C | C15H18N2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.21 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl isocyanate | 30 ml, 0.52 g | CN=C=O | C2H3NO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-(N-Cyclopropyl)amino-4-methyl-1,2,3,4-tetrahydrocyclopent[b]indol7-yl methylcarbamate | CNC(OC1=CC=2C3=C(N(C2C=C1)C)C(CC3)NC3CC3)=O | C17H21N3O2
